US04567176
Ammonium thiocyanate (47.27 g) and N-benzylglycine ethyl ester (40.0 g) were fused together at 140° C. for 4 hours. The deep red solution was allowed to cool to room temperature and the solid residue washed with ethanol/water (1:1) (200 ml). The solid was collected by filtration, washed with ethanol/water (1:1) (5×200 ml) and with diethyl ether (3×100 ml) to afford 1-benzyl-2-thiohydantoin (24.72 g), m.p. 150°-152° C.

reactant | Ammonium thiocyanate | 47.27 g | [S-]C#N.[NH4+]
reactant | N-benzylglycine ethyl ester | 40.0 g | C(C)OC(CNCC1=CC=CC=C1)=O | C11H15NO2
product | 1-benzyl-2-thiohydantoin | 24.72 g | C(C1=CC=CC=C1)N1C(=S)NC(=O)C1 | C10H10N2OS
